US07247626B2
To 1-[7-(cyclopentylamino)-2-(4fluorophenyl)pyrazolo[1,5- c]pyrimidin-3-yl]ethanone (200 mg, 0.59 mmol) was added 1,1 -di-tert-butoxy-N,N-dimethylmethanamine (4 mL) and the mixture heated to 80° C. for 30 minutes. The reaction was let cool to room temperature and was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and the combined organic layers washed with water and brine. The ethyl acetate solution was dried over magnesium sulfate, filtered and concentrated. The resulting residue was purified by silica chromatography eluting with ethyl acetate to yield 160 mg (69%) of 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-3-(dimethylamino)prop-2-en-1-one. 1H NMR (CDCl3): δ 7.77 (m, 4H), 7.44 (d, 1H), 7.19 (t, 2H), 6.41 (d, 1H), 5.09 (d, 1H), 4.57 (m,1H), 3.07 (m, 3H), 2.60 (m, 3H), 2.25 (m, 2H), 1.85 (m, 6H). MS m/z 394 (M+1).

reactant | 1-[7-(cyclopentylamino)-2-(4fluorophenyl)pyrazolo[1,5- c]pyrimidin-3-yl]ethanone | 0.59 mmol, 200 mg | C1(CCCC1)NC1=NC=CC=2N1N=C(C2C(C)=O)C2=CC=C(C=C2)F | C19H19FN4O
reactant | 1,1 -di-tert-butoxy-N,N-dimethylmethanamine | 4 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
product | 1-[7-(cyclopentylamino)-2-(4-fluorophenyl)pyrazolo[1,5-c]pyrimidin-3-yl]-3-(dimethylamino)prop-2-en-1-one | 160 mg, 69% | C1(CCCC1)NC1=NC=CC=2N1N=C(C2C(C=CN(C)C)=O)C2=CC=C(C=C2)F | C22H24FN5O
